US04959482
To a stirred mixture of 3.6 g (16 mmol) of 3,5-di-tert-butyl-4-hydroxyaniline and 1.3 g (16 mmol) of pyridine in 50 ml of ether cooled to 0° C. there was slowly added 2.5 g (16 mmol) of 5-chlorovalerylchloride. The reaction mixture was allowed to warm to 25° C. and stirred for 15 hours following which the mixture was diluted with 100 ml of ether, washed with water, dried over anhydrous magnesium sulfate and concentrated to 5.8 g of solid. The solid was triturated in hexane and filtered to yield 5.5 g (16 mmol) of N-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-chlorovaleramide.

reactant | 3,5-di-tert-butyl-4-hydroxyaniline | 16 mmol, 3.6 g | C(C)(C)(C)C=1C=C(N)C=C(C1O)C(C)(C)C | C14H23NO
reactant | pyridine | 16 mmol, 1.3 g | N1=CC=CC=C1 | C5H5N
reactant | 5-chlorovalerylchloride | 16 mmol, 2.5 g | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-chlorovaleramide | 16 mmol, 5.5 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC(CCCCCl)=O | C19H30ClNO2
